2103-12-18 10:14:00 Physician Attending Progress Note
Chief Complaint: ETOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo with ETOH withdrawl.  MS [**First Name (Titles) 912**] [**Last Name (Titles) 329**].    Tremulous this
   morning.  Received valium [**Last Name (Titles) 329**].  received it at 3 times [**Last Name (Titles) 329**].
   24 Hour Events:
   Improved MS.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2103-12-17**] 03:03 PM
   Other medications:
   hep s/q
   protonix
   MVI
   folate
   thiamine
   neutraphos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-12-18**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 127 (86 - 127) bpm
   BP: 125/74(85) {92/56(66) - 141/92(100)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,089 mL
                                                                    949 mL
   PO:
                                                                    790 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,299 mL
                                                                    749 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    690 mL
   Urine:
                                                                  2,485 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    604 mL
                                                                    259 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Oriented (to): person, place,
   time, Movement: Not assessed, Tone: Not assessed, tremulous
   Labs / Radiology
   10.9 g/dL
   113 K/uL
   110 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   6 mg/dL
   100 mEq/L
   134 mEq/L
   31.3 %
   5.6 K/uL
        [image002.jpg]
                            [**2103-12-16**]  06:00 PM
                            [**2103-12-16**]  10:21 PM
                            [**2103-12-17**]  05:16 AM
                            [**2103-12-17**]  06:06 PM
                            [**2103-12-18**]  03:21 AM
   WBC
   5.4
   5.6
   Hct
   31.8
   33.6
   31.3
   Plt
   97
   113
   Cr
   0.6
   0.5
   0.6
   0.7
   TropT
   <0.01
   Glucose
   92
   77
   72
   110
   Other labs: PT / PTT / INR:13.4/48.8/1.2, CK / CKMB /
   Troponin-T:219/4/<0.01, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):
   Still tremulous with alchohol withdrawl at times.  Continue valium per
   CIWA.
 SEIZURE, WITHOUT STATUS EPILEPTICUS:  No further seizures.
 ELECTROLYTE & FLUID DISORDER, OTHER:  Completed thiamine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-12-17**] 08:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2103-12-19 05:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - erythromycin eye ointment ordered
   - f/u with neuro re: librium
   - was oozing blood from site in L groin overnight.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-12-19**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 93 (82 - 127) bpm
   BP: 111/79(87) {97/58(72) - 145/95(105)} mmHg
   RR: 20 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,329 mL
                                                                     54 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                    879 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    500 mL
   Urine:
                                                                  2,110 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -781 mL
                                                                   -446 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General: thin, malnurished male in NAD. Slightly tremulous.
   HEENT: Has hematoma and ecchymosis over right eye which is shut. Yellow
   d/c from R eye crusting eyelids closed.  Patient can open eye, but is
   limited due to swelling, discharge.  EOM intact.  Vision intact.
   PERRL, anicteric sclera. Injected conjunctiva b/l R>L, particularly
   laterally in the R eye..
   CV: RRR soft 1/6 SEM but distant heart sounds
   Lungs: CTAB no w/r/r
   Abdomen:  +BS, soft, NTND
   Ext: no e/c/c
   Labs / Radiology
   141 K/uL
   11.5 g/dL
   113 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.2 mEq/L
   4 mg/dL
   101 mEq/L
   139 mEq/L
   32.7 %
   4.8 K/uL
        [image002.jpg]
                            [**2103-12-16**]  06:00 PM
                            [**2103-12-16**]  10:21 PM
                            [**2103-12-17**]  05:16 AM
                            [**2103-12-17**]  06:06 PM
                            [**2103-12-18**]  03:21 AM
                            [**2103-12-19**]  03:00 AM
   WBC
   5.4
   5.6
   4.8
   Hct
   31.8
   33.6
   31.3
   32.7
   Plt
   97
   113
   141
   Cr
   0.6
   0.5
   0.6
   0.7
   0.5
   TropT
   <0.01
   Glucose
   92
   77
   72
   110
   113
   Other labs: PT / PTT / INR:13.7/50.2/1.2, CK / CKMB /
   Troponin-T:219/4/<0.01, ALT / AST:14/38, Alk Phos / T Bili:83/1.2,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   56 yo M with PMH of alcohol abuse and withdrawal seizures who presents
   with likely withdrawal seizures.
   .
   #1 seizures: two witnessed seizures at home. None witnessed here so
   far.  Likely etiology for mental status changes is alcohol withdrawal
   but will continue to assess and if mental status does not continue to
   improve, will assess for other etiologies.  ETOH was negative on tox
   screen but unclear history.  Neuro recommended outpatient EEG.
   Tachycardic now in 110
s, CIWA score increasing.
   - CIWA scale with diazepam and ativan if unable to take PO
   - monitor in MICU throughout the day, re-assess for appropriateness to
   floor in afternoon
   - seizure precautions
   - neuron following, review recommendations.
   .
   #2 alcohol abuse: long history of alcohol abuse.
   -thiamine, folate, MVI
   -SW consult/addiction consult today v tomorrow based on mental status
   -PPI
   .
   #3 elevated bilirubin: likely secondary to underlying liver disease
   from alcohol. He has elevated bili (mild) and mild thrombocytopenia and
   anemia. Hct stable. No clear signs of bleeding.
   -continue to follow Hct, bilirubin
   .
   #4conjunctivitis R eye
   -erythromycin ophthalmic ointment TID
   .
   # FEN: Advance diet to regular. Replete lytes and will check PM lytes.
   .
   # PPX: seizure precautions, withdrawal precautions, heparin SQ for DVT
   ppx, bowel reg, PPI given alcohol use
   .
   # Code: full
   .
   # communication with wife and patient.
   .
   #dispo: if stable in afternoon call out to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-12-17**] 08:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2103-12-19 10:12:00 Physician Attending Progress Note
Chief Complaint: ETOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with seizures and ETOH withdrawl
   24 Hour Events:
   Required 70 of valium over past 24 hours. and 6mg of ativan
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   thiamine
   hep s/q
   mvi
   folate
   protonix
   neutraphos
   erythromycin ointment
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2103-12-19**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 95 (82 - 123) bpm
   BP: 108/74(82) {97/58(77) - 145/95(105)} mmHg
   RR: 22 (17 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,329 mL
                                                                    510 mL
   PO:
                                                                    450 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    879 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    610 mL
   Urine:
                                                                  2,110 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -781 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: hematoma over eye
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, and time, Movement: Not
   assessed, Tone: Not assessed, tremulous
   Labs / Radiology
   11.5 g/dL
   141 K/uL
   113 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.2 mEq/L
   4 mg/dL
   101 mEq/L
   139 mEq/L
   32.7 %
   4.8 K/uL
        [image002.jpg]
                            [**2103-12-16**]  06:00 PM
                            [**2103-12-16**]  10:21 PM
                            [**2103-12-17**]  05:16 AM
                            [**2103-12-17**]  06:06 PM
                            [**2103-12-18**]  03:21 AM
                            [**2103-12-19**]  03:00 AM
   WBC
   5.4
   5.6
   4.8
   Hct
   31.8
   33.6
   31.3
   32.7
   Plt
   97
   113
   141
   Cr
   0.6
   0.5
   0.6
   0.7
   0.5
   TropT
   <0.01
   Glucose
   92
   77
   72
   110
   113
   Other labs: PT / PTT / INR:13.7/50.2/1.2, CK / CKMB /
   Troponin-T:219/4/<0.01, ALT / AST:14/38, Alk Phos / T Bili:83/1.2,
   Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):
   Still tremulous, but improved.  Required Valium q4h yesterday which
   should be ok on floor.
 SEIZURE, WITHOUT STATUS EPILEPTICUS:  No further seizures
   Conjunctivitis improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2103-12-17**] 08:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes